US05684151
1-(4-Iodobenzenesulfonyl)-3-(4-methylsulfinylphenyl)-1,4,5,6-tetrahydropyridazine (Compound 148)
A solution of 1-(4Iodobenzenesulfonyl)-3-(4-methylthiophenyl)-1,4,5,6-tetrahydropyridazine (1.27 g, 2.69 mmol) in methanol (450 mL) was added to a solution of sodium periodate (0.61 g, 2.82 mmol) in water (6 mL) and stirred at a low heat for 16 hours. The resulting mixture was filtered, concentrated arylphosphonyl dihalide and purified by column chromatography on silica gel using ether/methylene chloride as an eluent to give the title compound as a solid: mp 191°-193° C.

reactant | 1-(4Iodobenzenesulfonyl)-3-(4-methylthiophenyl)-1,4,5,6-tetrahydropyridazine | 2.69 mmol, 1.27 g | IC1=CC=C(C=C1)S(=O)(=O)N1N=C(CCC1)C1=CC=C(C=C1)SC | C17H17IN2O2S2
reactant | sodium periodate | 2.82 mmol, 0.61 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 450 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | 1-(4-Iodobenzenesulfonyl)-3-(4-methylsulfinylphenyl)-1,4,5,6-tetrahydropyridazine | IC1=CC=C(C=C1)S(=O)(=O)N1N=C(CCC1)C1=CC=C(C=C1)S(=O)C | C17H17IN2O3S2
